US09120749B2
{4-[trans-4-Aminocyclohexylamino]-6-(1H-pyrazol-4-yl)quinolin-3-yl}(cyclopropyl)methanone
Following general procedure A-2, tert-butyl trans-4-[3-(cyclopropanecarbonyl)-6-(1H-pyrazol-4-yl)quinolin-4-ylamino]cyclohexylcarbamate (17 mg, 0.036 mmol) was reacted with TFA (2 mL) to afford the desired product (6.1 mg, 45%) as an off-white solid: 1H NMR (500 MHz, CD3OD) δ 9.30 (br s, 1H), 8.54 (br s, 1H), 8.29 (dd, J=8.7, 1.7 Hz, 1H), 8.19 (s, 2H), 7.94 (d, J=8.8 Hz, 1H), 2.84 (s, 1H), 2.44 (s, 2H), 2.24 (d, J=11.1 Hz, 2H), 1.89-1.76 (m, 2H), 1.67 (br s, 2H), 1.35-1.19 (m, 6H); ESI MS m/z 376 [C22H25N5O+H]+; HPLC 97.6% (AUC), tR=9.39 min.

reactant | tert-butyl trans-4-[3-(cyclopropanecarbonyl)-6-(1H-pyrazol-4-yl)quinolin-4-ylamino]cyclohexylcarbamate | 0.036 mmol, 17 mg | C1(CC1)C(=O)C=1C=NC2=CC=C(C=C2C1N[C@@H]1CC[C@H](CC1)NC(OC(C)(C)C)=O)C=1C=NNC1 | C27H33N5O3
reactant | TFA | 2 mL | C(=O)(C(F)(F)F)O | C2HF3O2
product | {4-[trans-4-Aminocyclohexylamino]-6-(1H-pyrazol-4-yl)quinolin-3-yl}(cyclopropyl)methanone | 6.1 mg, 45% | N[C@@H]1CC[C@H](CC1)NC1=C(C=NC2=CC=C(C=C12)C=1C=NNC1)C(=O)C1CC1 | C22H25N5O
